US07517875B2
After dissolving 2-amino-6-chlorobenzoic acid (1.13 g, 6.59 mmol) in tetrahydrofuran (5.0 mL), a solution of sodium bistrimethylsilylamide/1.0 M in THF (19.8 mL, 19.8 mmol) was added dropwise. After stirring this mixture for 15 minutes, a solution of (Boc)2O (1.82 mL, 7.91 mmol) in tetrahydrofuran (2.0 mL) was added dropwise, and the mixture was stirred for 3 hours. Water (20 mL) and 1N hydrochloric acid (about 25 mL) were added to the reaction mixture to adjust the pH to approximately 4. It was then extracted with ethyl acetate (40 mL×3 times), and the obtained organic layer was washed with water (50 mL×2 times) and saturated brine (50 mL), and then dried over anhydrous magnesium sulfate. The dried product was concentrated under reduced pressure to obtain a concentrated residue, which was then purified by silica gel column chromatography (methylene chloride:methanol:acetic acid=95:5:1) to obtain 2-(Boc)amino-6-chlorobenzoic acid. The compound was identified by LC-MS and NMR.

reactant | 2-amino-6-chlorobenzoic acid | 6.59 mmol, 1.13 g | NC1=C(C(=O)O)C(=CC=C1)Cl | C7H6ClNO2
reactant | sodium bistrimethylsilylamide | 1.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | (Boc)2O | 7.91 mmol, 1.82 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 1N, about 25 mL | Cl | ClH
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
solvent | THF | 19.8 mmol, 19.8 mL | C1CCOC1 | C4H8O
solvent | Water | 20 mL | O | H2O
product | 2-(Boc)amino-6-chlorobenzoic acid | C(=O)(OC(C)(C)C)NC1=C(C(=O)O)C(=CC=C1)Cl | C12H14ClNO4
